US05244889
Diethyl 2-t-butoxycarbonylamino-13-benzyloxycarbonyl-1,14-tetradecanedicarboxylate (5.0 g, 8.87 mmol) is dissolved in ethyl acetate (150.0 mL), and 10% Pd-C (2.6 g) is added. The reaction flask is put under an atmosphere of hydrogen and stirred for 2 hours. The product is then filtered through a pad of Celite, and the solvent is evaporated to give diethyl 2-t-butoxycarbonylamino-13-carboxy-1,14-tetradecanedicarboxylate.

reactant | Diethyl 2-t-butoxycarbonylamino-13-benzyloxycarbonyl-1,14-tetradecanedicarboxylate | 8.87 mmol, 5.0 g | C(C)(C)(C)OC(=O)NC(CC(=O)OCC)CCCCCCCCCCC(CC(=O)OCC)C(=O)OCC1=CC=CC=C1 | C33H53NO8
solvent | ethyl acetate | 150.0 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd-C | 2.6 g | [Pd] | Pd
product | diethyl 2-t-butoxycarbonylamino-13-carboxy-1,14-tetradecanedicarboxylate | C(C)(C)(C)OC(=O)NC(CC(=O)OCC)CCCCCCCCCCC(CC(=O)OCC)C(=O)O | C26H47NO8
